US06107301
Part A: To 3.18 grams (25.6 mmol) of commercially available 5-amino-2-methoxypyridine in a solution of methylene chloride (50 ml) and methanol (20 ml) was added benzyltrimethylammonium tribromide (10 g, 25.6 mmol) and the mixture was stirred at room temperature for 24 hours. The solvent was then stripped and the resulting residue was taken up in water and extracted (3×100 mL) with ethyl acetate. The organic extracts were dried with magnesium sulfate, filtered, and concentrated in vacuo. The crude material was chromatographed on silica using 30% ethyl acetate in hexanes as solvent to afford 5-amino-2-bromo-6-methoxypyridine. C6H7N2OBr MS 203 (M+H)+.

reactant | 5-amino-2-methoxypyridine | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | methanol | 20 ml | CO | CH4O
reactant | benzyltrimethylammonium tribromide | 25.6 mmol, 10 g | [Br-].[Br-].[Br-].C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | O | H2O
product | 5-amino-2-bromo-6-methoxypyridine | NC=1C=CC(=NC1OC)Br | C6H7BrN2O
